US06248739B1
1-Amino-N-(4-chlorobenzyl)-6-(3-hydroxypropyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
1-Amino-N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (0.21 g) from Example No. 118 is dissolved in a 1:1 mixture of methanol/DMF. To the solution is added 5% platinum on carbon (0.11 g) and acetic acid (0.5 mL). The reaction is shaken under a hydrogen atmosphere (35 psi) for 4.5 hours. The catalyst is removed by filtration through Celite. The filtrate is concentrated in vacuo, and the resulting white solid is triturated with dichloromethane. The crude product is then purified by column chromatography (MeOH/CH2Cl2: 3%, 5%) yielding 0.10 g of the title compound as a white solid.

reactant | 1-Amino-N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.21 g | NN1C=C(C(C2=CC(=CC=C12)C#CCO)=O)C(=O)NCC1=CC=C(C=C1)Cl | C20H16ClN3O3
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol DMF | CO.CN(C)C=O
catalyst | platinum on carbon | 0.11 g | [Pt] | Pt
product | 1-Amino-N-(4-chlorobenzyl)-6-(3-hydroxypropyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.10 g | NN1C=C(C(C2=CC(=CC=C12)CCCO)=O)C(=O)NCC1=CC=C(C=C1)Cl | C20H20ClN3O3
